Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flexeril
 
Attending: ___.
 
Chief Complaint:
right ankle pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ woman with h/o diabetes type-II, HTN, and HL 
who presents with right foot pain following a fall on ___. The 
patient states she fell 1.5 weeks ago, injured her ankle, and 
suffered an abrasion below her right patella. Patient states she 
just tripped over her foot, causing her to fall.

The patient feels pain in her right foot when bearing weight. 
She went to see her PCP ___ ___, who advised minimal 
weightbearing, use of crutches to ambulate, and use 
acetaminophen or ibuprofen for pain control. She has noticed 
swelling for about 1 week. The patient has not been able to stay 
off her foot because she has had to work.

The patient presented to the ED today because the pain and 
swelling has increased. In the ED, her vitals were T 98.2, BP 
156/85, HR 70, RR 16, O2 100% RA. Blood cultures x2 were sent, 
and she was started on 1g vancomycin, 1g ceftriaxone, and 3g 
unasyn prior to being transferred to the floor.

On ROS, the patient states that she is prone to headaches but 
does not have one now. She also has chronic back pain. She 
denies any recent fevers, chills, weight changes, vision 
changes, changes in bowel or bladder habits, N/V, or mood 
changes.

 
Past Medical History:
Diabetes type-II
Hypertension
Hyperlipidemia
H/o dermatophytosis
H/o onychomycosis
Chronic abd pain: on lactulose and PPI, colonoscopy in ___ wnl
H/o H. pylori
LBP: Likely ___ to muscule spasms
TMJ
Depression
S/p L cataract extraction: ___
 
Social History:
___
Family History:
mother: hypertension, arthritis, congestive heart failure
father: died ___ to complications of MI
children: patient does not know of health problems among her 
children

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T 96.9, BP 180/11, HR 64, RR 18, O2 100% RA
General: NAD, lying in bed
HEENT: PERRL, EOMI, MMM, OP clear, no LAD
Cardiac: RRR, S1+S2, no m/r/g, no JVD
Pulm: LCAB, no wheezes or crackles
Abd: +BS, soft, NT, ND, no HSM
Ext: R ankle visibly edematous particularly around lateral 
malleolus, tender to palpation and manipulation, decreased ROM 
(plantarflexion>dorsiflexion , inversion>eversion) with passive 
and active motion, warm, 2+ distal pulse, RLE warm and 
erythematous ___ up calf, healed abrasion below right 
patella, LLE WWP with 2+ distal pulse and no edema or erythema
Neuro: A+Ox3, CN II-XII intact, brisk patellar and 
brachioradialis reflexes bilaterally

 
Pertinent Results:
Labs upon admission:
___ 12:59PM   LACTATE-1.4
___ 12:50PM   GLUCOSE-105 UREA N-15 CREAT-0.7 SODIUM-139 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-28 ANION GAP-12
___ 12:50PM   WBC-5.2 RBC-4.20 HGB-11.6* HCT-35.5* MCV-85 
MCH-27.7 MCHC-32.7 RDW-13.1
___ 12:50PM   NEUTS-42.0* LYMPHS-51.6* MONOS-4.8 EOS-1.1 
BASOS-0.5

Labs upon discharge:
___ 06:25AM BLOOD WBC-4.7 RBC-3.82* Hgb-10.8* Hct-32.2* 
MCV-84 MCH-28.3 MCHC-33.5 RDW-13.0 Plt ___

IMAGING:
___ R foot xray: There is hallux valgus metatarsus varus of 
the first MTP joint as well as degenerative changes. Subchondral 
cystic changes and spurring are seen at the base of the first 
proximal phalanx. There are no signs for acute fractures. No 
bony erosions are present. A plantar spur is seen. 

___ R ankle xray: There is prominent soft tissue swelling, 
medial greater than lateral. There are no osteochondral lesions. 
There are no acute fractures or dislocations. No focal lytic or 
blastic lesions are present 

 
Brief Hospital Course:
___ woman with h/o diabetes, HTN, HL who presents s/p fall with 
RLE edema and pain.

1. Cellulitis: Patient was admitted with right lower extremity 
edema, erythema, and pain. Patient had fall prior to 
presentation with abrasions, this most likely etiology of 
symptoms is cellulitis. Plain films negative for fracture. She 
was given ceftriaxone, usasyn, and vancomycin in the ED before 
being transferred to the floor. Given that patient has 
comorbidity of diabetes and is at higher risk for MRSA and 
gram-negative infection, she was switched on augmentin. Patient 
did not show any concerning signs of resistant infection, such 
as leukocytosis or fever and thus broader coverage was not 
necessary. Patient's symptoms improved overnight, and she was 
discharged home with augmentin, to be completed on ___ after 
a 10-day course. Her pain was controlled with percocet and 
ibuprofen.

2. Diabetes: Patient has type-II diabetes and is managed at home 
on metformin. Her last HbA1c in ___ was 6.7%. She was kept 
in-house on an ISS and told to restart her metformin when she 
was discharged home.

3. Hypertension: Patient presented to the floor from the ED with 
BP 180/100 because she had not taken her daily BP medications. 
She was restarted on all home meds on the floor, and her SBPs 
remained in her baseline range of 140s-150. She was discharged 
without any changed to her antihypertensive regimen.

4. Chronic LBP: Patient has had chronic LBP for many years, 
which is secondary to spasm. She states that her work makes this 
much worse, as she is on her feet all day. She was placed on 
ibuprofen standing with percocet prn for pain control, and this 
managed her symptoms well.

***PENDING ISSUES FOR F/U***
1. Cellulitis: Patient should follow-up with her PCP to ensure 
cellulitis is resolved. Augmentin course scheduled to finish on 
___.

 
Medications on Admission:
Diltiazem HCl 60mg qd
Enalapril 5mg qd
HCTZ 25mg qd
Metformin 500mg 
Pravastatin 10mg qd
Lactulose ___ qd
Prilosec 20mg qd
Meclizine 12.5-25mg q6h prn nausea
Acetaminophen 1000mg tid prn pain
Ibuprofen 600mg q6h

 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Enalapril Maleate 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
5. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO DAILY 
(Daily) as needed for constipation.  
6. Meclizine 12.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea.  
7. Pravastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Amoxicillin-Pot Clavulanate 500-125 mg Tablet Sig: One (1) 
Tablet PO TID (3 times a day) for 9 days: Please take through 
___.
Disp:*26 Tablet(s)* Refills:*0*
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Diltiazem HCl 60 mg Capsule, Sust. Release 12 hr Sig: One 
(1) Capsule, Sust. Release 12 hr PO once a day.  
12. Metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Right lower extremity cellulitis

Secondary Diagnosis:
1. Hypertension
2. Diabetes

 
Discharge Condition:
Stable: Patient's symptoms are improving on antibiotics

 
Discharge Instructions:
You were admitted with pain and swelling in your right foot. You 
were found to have an infection of the skin. You were started on 
antibiotics, called augmentin, to treat the infection.

You should take all the augmentin pills as directed for the next 
nine days. You should also continue taking all of your other 
medications.

You were started on a new medication called aspirin to help 
protect your heart.  You should take one aspirin a day.

You were also started on a new pain medication called percocet. 
You can take this until your infection gets better. You should 
not take tylenol while you are taking percocet.

If you notice more swelling, pain, or redness on your right foot 
or leg, develop a high fever, or notice any nubmness/tingling in 
your legs, you should call your primary care doctor or return to 
the Emergency Department.
 
Followup Instructions:
___